US04318914
N-(2,3-Dihydroxypropyl)-4-[15-(trifluoromethyl)pentadecylamino]benzamide
To a mixture containing 4.3 g. of 1-{4-[N-tert-butyloxycarbonyl-15-(trifluoromethyl)pentadecylamino]benzoyl}imidazole, 50 ml. of chloroform, and 50 ml. of 5 N sodium hydroxide is added 1.1 g. of 3-amino-1,2-propanediol. The solution is vigorously stirred for 24 hours, the layers are separated, and the chloroform solution is washed once with 50 ml. of 1 N sodium hydroxide. The solvent is evaporated and the residue is heated for 30 minutes at 40° C. in 50 ml. of anhydrous trifluoroacetic acid. The solvent is again evaporated and the oil is crystallized from acetone to yield the product as a light yellow solid.

reactant | 1-{4-[N-tert-butyloxycarbonyl-15-(trifluoromethyl)pentadecylamino]benzoyl}imidazole | C(C)(C)(C)OC(=O)N(C1=CC=C(C(=O)N2C=NC=C2)C=C1)CCCCCCCCCCCCCCCC(F)(F)F | C31H46F3N3O3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,3-Dihydroxypropyl)-4-[15-(trifluoromethyl)pentadecylamino]benzamide | OC(CNC(C1=CC=C(C=C1)NCCCCCCCCCCCCCCCC(F)(F)F)=O)CO | C26H43F3N2O3
